US07691877B2
Benzyl-(2,6-dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester
Potassium carbonate (5.57 g) was added to a stirred solution of (2,6-dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester (7.44 g) in acetone (100 ml) then benzyl bromide (2.87 ml) was added, followed by sodium iodide (3.63 g). The mixture was left to stir under nitrogen for 36 hours. The reaction mixture was filtered to remove precipitated white solids, concentrated in vacuo, and then partitioned between ethyl acetate (100 ml) and water (100 ml). The organics were dried (MgSO4) and evaporated to a yellow oil. This crude oil was adsorbed onto silica gel and then purified by chromatography on Isco Companion on a silica column (80 g, Redisep) eluting with EtOAc:heptane, increasing the gradient linearly from 10:90 to 50:50. This provided the title compound (7.50 g) as a yellow oil.

reactant | Potassium carbonate | 5.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2,6-dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester | 7.44 g | C(C)OC(NC1=C(C(=NC(=C1)Br)Br)[N+](=O)[O-])=O | C8H7Br2N3O4
reactant | benzyl bromide | 2.87 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium iodide | 3.63 g | [I-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Benzyl-(2,6-dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester | 7.50 g | C(C)OC(N(C1=C(C(=NC(=C1)Br)Br)[N+](=O)[O-])CC1=CC=CC=C1)=O | C15H13Br2N3O4
